US07476666B2
Step 3: Methyl 3-benzyloxy-4-oxo-7-phenyl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylate
To a solution of dimethyl 4-benzyloxy-1-[cyano(phenyl)methyl]-1H-pyrazole-3,5-dicarboxylate (1.0 g, 2.47 mmol) in anhydrous MeOH (100 mL) through which nitrogen had been bubbled was added rhodium on alumina (50 mg). The mixture was then treated with ammonia gas for 5 minutes and stirred under an atmosphere of hydrogen gas overnight. The mixture was filtered through celite and the filter cake was washed with MeOH. The filtrate was concentrated and purified by reverse phase chromatography on a C-18 column using a gradient elution of 95-5% H2O (0.1% TFA)/CH3CN (0.1% TFA). Collection and concentration of the appropriate fractions afforded the title product as an off-white solid. 1H NMR (400 MHz, d6-DMSO) δ 8.28 (s, 1H), 7.49-7.47 (m, 2H), 7.40-7.32 (m, 6H), 6.96-6.93 (m, 2H), 5.77 (s, 1H), 5.40-5.27 (m, 2H), 4.04-3.99 (m, 1H), 3.78 (s, 3H), 3.76-3.59 (m, 1H); ES MS (M+1)=378.

reactant | dimethyl 4-benzyloxy-1-[cyano(phenyl)methyl]-1H-pyrazole-3,5-dicarboxylate | 2.47 mmol, 1.0 g | C(C1=CC=CC=C1)OC=1C(=NN(C1C(=O)OC)C(C1=CC=CC=C1)C#N)C(=O)OC | C22H19N3O5
reactant | ammonia | N | H3N
solvent | MeOH | 100 mL | CO | CH4O
catalyst | rhodium on alumina | 50 mg | [Rh] | Rh
product | Methyl 3-benzyloxy-4-oxo-7-phenyl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylate | C(C1=CC=CC=C1)OC=1C(=NN2C1C(NCC2C2=CC=CC=C2)=O)C(=O)OC | C21H19N3O4
